US05583092
Ethyl cyanoformate (16.9 g, 0.171 mol) is added to a stirred solution of 5-(4-methoxyphenyl)-[1,3,4]oxathiazolin-2-one (11.9 g, 0.057 mol) in p-xylene (100 ml). The mixture is heated to 115°-132° C. for 10 hours, during which time carbon dioxide is liberated. The solvent is evaporated in vacuo and the residue is triturated with di-isopropyl ether. The crystalline solid is filtered off, washed with a small amount of diisopropyl ether and dried, to give ethyl 3-(4-methoxyphenyl)-[1,2,4]thiadiazole-5-carboxylate (11.6 g, 77%) as beige crystals, m.p. 61°-63° C.

reactant | Ethyl cyanoformate | 0.171 mol, 16.9 g | C(#N)C(=O)OCC | C4H5NO2
reactant | 5-(4-methoxyphenyl)-[1,3,4]oxathiazolin-2-one | 0.057 mol, 11.9 g | COC1=CC=C(C=C1)C1=NSC(O1)=O | C9H7NO3S
reactant | carbon dioxide | C(=O)=O | CO2
solvent | p-xylene | 100 ml | CC=1C=CC(=CC1)C | C8H10
product | ethyl 3-(4-methoxyphenyl)-[1,2,4]thiadiazole-5-carboxylate | 11.6 g, 77% | COC1=CC=C(C=C1)C1=NSC(=N1)C(=O)OCC | C12H12N2O3S
